US05510442
Synthesis Procedure for Allylmalonic Acid
Potassium hydroxide (15.6 g, 0.28 mol), 15 ml of distilled water and 50 ml of heptane are added to a round bottom flask. Allyldiethylmalonate (22.0 g, 1.1 mol) is added slowly to the reaction mixture with stirring and refluxed for sufficient time to complete hydrolysis. Ethanol is removed with a rotoevaporator. The resultant product is cooled in a beaker and acidified with sulfuric acid. The final solution is extracted with diethylether. The ether layer is collected, dried over MgSO4, and ether is removed with a rotoevaporator. The crude allylmalonic acid is crystalized from petroleum ether.

reactant | Potassium hydroxide | 0.28 mol, 15.6 g | [OH-].[K+]
reactant | water | 15 ml | O | H2O
reactant | Allyldiethylmalonate | 1.1 mol, 22.0 g | C(C=C)OC(C(C(=O)[O-])(CC)CC)=O
reactant | heptane | 50 ml | CCCCCCC | C7H16
product | Allylmalonic Acid | C(C=C)C(C(=O)O)C(=O)O | C6H8O4
